US08357693B2
To tert-butyl 5-(2-(3-(2-(dimethylamino)acetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (560 mg, 1.04 mmol) was added a solution of 1:1 TFA:CH2Cl2 (6 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the residue was triturated with ethyl ether and drops of CH2Cl2 to afford 2-methoxyacetyl chloride N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-2-(dimethylamino)acetamide. (325 mg, 0.74 mmol, 71%)

reactant | tert-butyl 5-(2-(3-(2-(dimethylamino)acetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 1.04 mmol, 560 mg | CN(CC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)C | C30H31N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxyacetyl chloride N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-2-(dimethylamino)acetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(CN(C)C)=O.COCC(=O)Cl | InChI=1S/C25H23N7O.C3H5ClO2/c1-32(2)15-23(33)27-18-7-5-6-16(12-18)24-29-22-9-4-3-8-20(22)25(30-24)28-19-10-11-21-17(13-19)14-26-31-21;1-6-2-3(4)5/h3-14H,15H2,1-2H3,(H,26,31)(H,27,33)(H,28,29,30);2H2,1H3
